US08729105B2
Preparation of 5-(4-chlorophenyl)-N-((5-isopropylisoxazol-3-yl)methyl)-6-(2,2,2-trifluoroethoxy)nicotinamide
The title compound was synthesized in analogy to Example 1, using 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (CAS Registry No. 1018782-82-5) and 5-(1-methylethyl)-3-isoxazolemethanamine (CAS Registry No. 154016-49-6) as starting materials, 454.1 (M+H)+.

reactant | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H9ClF3NO3
reactant | 5-(1-methylethyl)-3-isoxazolemethanamine | CC(C)C1=CC(=NO1)CN | C7H12N2O
product | 5-(4-chlorophenyl)-N-((5-isopropylisoxazol-3-yl)methyl)-6-(2,2,2-trifluoroethoxy)nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NOC(=C2)C(C)C)C1)OCC(F)(F)F | C21H19ClF3N3O3
